US05153187
(1R, 5R, 6S)-6-[(1R)-1-Hydroxyethyl]-1-methyl-2- oxocarbapenam-3-carboxylic acid 4-nitrobenzyl ester (25.2 g) is dissolved in anhydrous acetonitrile (173 ml), and thereto are added dropwise diisopropylethylamine (13 ml) and diphenylphosphoryl chloride (15.5 ml) in this order under nitrogen gas below 0° C. After stirring the mixture at the same temperature for 30 minutes, a solution of (4R)-N-methyl-4- mercaptopyrrolidine-2-thione (13 g) and diisopropylethylamine (11.5 g) in anhydrous acetonitrile (173 ml) is added dropwise to the reaction mixture below -5° C. After stirring the mixture at 0° C. for 1.5 hour, the reaction mixture is poured into phosphate buffer (pH 7.0, one liter). The precipitated crystal is separated by filtration and dissolved in a mixture of chloroform (2 liters) and tetrahydrofuran (1 liter), and the solution is washed with water, dried and concentrated to dryness under reduced pressure. The residue is crystallized from diethyl ether to give (1R, 5S, 6S)-2-[(4R)-N-methyl- pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen -2-em-3-carboxylic acid 4-nitrobenzyl ester (23.5 g) as colorless needles.

reactant | (1R, 5R, 6S)-6-[(1R)-1-Hydroxyethyl]-1-methyl-2- oxocarbapenam-3-carboxylic acid 4-nitrobenzyl ester | 25.2 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2C([C@@H]([C@H]3N2C([C@@H]3[C@@H](C)O)=O)C)=O)C=C1 | C17H18N2O7
reactant | diisopropylethylamine | 13 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl chloride | 15.5 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | (4R)-N-methyl-4- mercaptopyrrolidine-2-thione | 13 g | CN1C(C[C@H](C1)S)=S | C5H9NS2
reactant | diisopropylethylamine | 11.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosphate | one liter, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | acetonitrile | 173 ml | C(C)#N | C2H3N
solvent | acetonitrile | 173 ml | C(C)#N | C2H3N
product | (1R, 5S, 6S)-2-[(4R)-N-methyl- pyrrolidine-2-thion-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methylcarbapen -2-em-3-carboxylic acid 4-nitrobenzyl ester | 23.5 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C([C@@H]([C@H]3N2C([C@@H]3[C@@H](C)O)=O)C)S[C@@H]3CC(N(C3)C)=S)C=C1 | C22H25N3O6S2
